US08492378B2
2-methyl-5-[3-[1-[2-(trifluoromethyl)benzyl]-1H-pyrazol-4-yl]-1-benzofuran-5-yl]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and using 2-(trifluoromethyl)benzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 92%) was obtained as colorless crystals.

reactant | 2-methyl-5-[3-(1H-pyrazol-4-yl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C=2C=NNC2)C1 | C14H10N4O2
reactant | 2-(trifluoromethyl)benzyl bromide | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
product | 2-methyl-5-[3-[1-[2-(trifluoromethyl)benzyl]-1H-pyrazol-4-yl]-1-benzofuran-5-yl]-1,3,4-oxadiazole | yield 92% | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C=2C=NN(C2)CC2=C(C=CC=C2)C(F)(F)F)C1 | C22H15F3N4O2
